US07122580B2
2-Biphenyl-4-yl-N-(1-bromo-isoquinolin-3-yl)-acetamide
To a solution of 4-biphenylacetic acid (1.0 g, 4.7 mmol) in 10 ml of anhydrous DMF was added HBTU (2.1 g, 5.7 mmol) and 1.0 ml of DIEA. The mixture was stirred at room temperature for 10 min, and then 1-bromo-3-isoquinolinamine (0.68 g, 4.7 mmol) was added. After stirring over night, the mixture was poured into water, acidified with 10% citric acid, and extracted with ethyl acetate. The organic extracts were washed with water and brine, dried over Na2SO4. After the condensation of the solvent, the residue was purified by flash column chromatography (SiO2, 1:1 hexane:ethyl aceate) to provide the title compound (1.7 g, 86%) as a light yellow solid.

reactant | 4-biphenylacetic acid | 4.7 mmol, 1.0 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | HBTU | 5.7 mmol, 2.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-bromo-3-isoquinolinamine | 4.7 mmol, 0.68 g | BrC1=NC(=CC2=CC=CC=C12)N | C9H7BrN2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Biphenyl-4-yl-N-(1-bromo-isoquinolin-3-yl)-acetamide | 1.7 g, 86% | C1(=CC=C(C=C1)CC(=O)NC=1N=C(C2=CC=CC=C2C1)Br)C1=CC=CC=C1 | C23H17BrN2O
